US04749791
229 g (1.04 mol) of 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline were dissolved in 2 ml of methylene chloride, treated with 115 g (1.14 mol) of triethylamine, and 89.5 g (1.14 mol) of acetyl chloride in 400 ml of methylene chloride were added dropwise thereto at 0°. After stirring at room temperature for 1 hour, the mixture was poured into water, extracted with methylene chloride, and the methylene chloride phase was dried with magnesium sulphate. Distillation of the solvent in vacuo gave a crude product which was suspended in 500 ml of ether and filtered off. There was obtained 4-acetyl-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline of melting point 106°-108°. Concentration of the mother liquor and chromatography (silica gel/chloroform) gave a further portion of melting point 106°-108°.

reactant | 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 1.04 mol, 229 g | ClC1=CC2=C(C=3CCCNC3CC2)C=C1 | C13H14ClN
reactant | triethylamine | 1.14 mol, 115 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.14 mol, 89.5 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 500 ml | CCOCC | C4H10O
product | 4-acetyl-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | C(C)(=O)N1CCCC=2C3=C(CCC12)C=C(C=C3)Cl | C15H16ClNO
